US08492549B2
((S)-7-Benzyloxy-2,3-dihydrobenzo[1,4]dioxin-2-yl)methanol
To a stirred solution of acetic acid 5-benzyloxy-2-((R)-1-oxiranylmethoxy)phenyl ester (0.5 g, 1.59 mmol) in THF (10 ml) was added aq 2 M NaOH (1.04 ml). After stirring overnight at RT, THF was removed under reduced pressure and water (20 ml) was added. The water solution was then extracted two times with EtOAc. The combined organic layers washed with water and brine, dried (Na2SO4), and evaporated in vacuo. The crude product (0.45 g) was used without purification.

reactant | acetic acid 5-benzyloxy-2-((R)-1-oxiranylmethoxy)phenyl ester | 1.59 mmol, 0.5 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)OC(C)=O)OC[C@@H]1OC1 | C18H18O5
reactant | NaOH | 2 M, 1.04 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | ((S)-7-Benzyloxy-2,3-dihydrobenzo[1,4]dioxin-2-yl)methanol | C(C1=CC=CC=C1)OC=1C=CC2=C(O[C@H](CO2)CO)C1 | C16H16O4
